US05962481
To a suspension of 3-amino-2,6-dimethoxypyridine (1.5 g, 7.87 mmol) was added di-tert-butyl dicarbonate (3.43 g, 15.7 mmol). The solution was heated at reflux for 36 hours, cooled to room temperature, and diluted with H2O. The aqueous solution was extracted 3 times with EtOAc, the organic extracts were combined, washed with brine, dried over MgSO4, concentrated in vacuo. The residue was purified by column chromatography using hexane/ethyl acetate as eluant (gradient 100% to 4/1) to provide 2.00 g (100%) of tert-butyl N-(2,6-dimethoxy-3-pyridyl)carbamate a yellow oil. Electrospray Mass Spec: 254.9 (M+H)+

reactant | 3-amino-2,6-dimethoxypyridine | 7.87 mmol, 1.5 g | NC=1C(=NC(=CC1)OC)OC | C7H10N2O2
reactant | di-tert-butyl dicarbonate | 15.7 mmol, 3.43 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | H2O | O | H2O
product | tert-butyl N-(2,6-dimethoxy-3-pyridyl)carbamate | 2.00 g, 100% | COC1=NC(=CC=C1NC(OC(C)(C)C)=O)OC | C12H18N2O4
